US07042755B1
2-(4-Bromophenyl)-5,5-dimethyl-1,3-dioxane (12)
The following describes an improved procedure at three times larger scale in much shorter time compared with the literature (Hewlins et al. (1986) J. Chem. Res. (M), 8: 2645–2696). 4-Bromobenzaldehyde (3.00 g, 16.2 mmol), neopentylglycol (1.86 g, 17.9 mmol) and p-toluenesulfonic acid (50 mg, 0.3 mmol) were dissolved in toluene (30 mL) and the solution was refluxed for 3 h. Then the solution was cooled to rt, washed twice with aq NaHCO3 (10%), twice with water and dried (Na2SO4). The solvent was evaporated and the oily residue was crystallized from hexanes, affording colorless needles (2.81 g, 64%). 13C NMR (APT) δ 21.7 (−), 22.9 (−), 30.1 (+), 77.5 (+), 100.8 (−), 122.7 (+), 127.8 (−), 131.3 (−), 137.5 ((+)).

reactant | 4-Bromobenzaldehyde | 16.2 mmol, 3.00 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | neopentylglycol | 17.9 mmol, 1.86 g | CC(C)(CO)CO | C5H12O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.3 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(4-Bromophenyl)-5,5-dimethyl-1,3-dioxane | 2.81 g, 64% | BrC1=CC=C(C=C1)C1OCC(CO1)(C)C | C12H15BrO2
